US06498165B1
Step A: Tert-butyl (3-acetyl)benzoate
In a dry flask under nitrogen, MgSO4 (23.3 mmol) was suspended in CH2Cl2 (23 mL), the mixture was stirred vigorously as concentrated H2SO4 (5.85 mmol) was added dropwise. The resultant mixture was stirred for 20 min and 3-acetylbenzoic acid (5.84 mmol) was added in one portion followed by the dropwise addition of tert-butanol (29.3 mmol). This mixture was stoppered tightly and stirred at room temperature for 114 hours. Worked up by adding 100 mL saturated aqueous NaHCO3 and extracting 3× with 50 mL diethyl ether. The combined extracts were washed with brine, dried over MgSO4 and concentrated. Purified the residue by silica gel chromatography (90:10 hexanes:ethyl acetate) to yield 924 mg of the title compound. 1H NMR (500 MHz, CDCl3): δ 8.56 (m, 1H); 8.20 (m, 1H); 8.14 (m, 1H); 7.55 (t, J=7.6 Hz, 1H); 2.67 (s, 3H); 1.64 (s, 9H).

reactant | MgSO4 | 23.3 mmol | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | H2SO4 | 5.85 mmol | OS(=O)(=O)O | H2O4S
reactant | 3-acetylbenzoic acid | 5.84 mmol | C(C)(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O3
reactant | tert-butanol | 29.3 mmol | C(C)(C)(C)O | C4H10O
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 23 mL | C(Cl)Cl | CH2Cl2
product | Tert-butyl (3-acetyl)benzoate | 924 mg | C(C)(=O)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C13H16O3
